US08871738B2
(S)-5-(3-bromo-4-methoxyphenyl)-6,6-dimethyl-1,3-oxazinan-2-one
To a solution of (S)-2-(3-bromo-4-methoxyphenyl)-3-hydroxy-3-methylbutyl 4-methylbenzenesulfonate (58 mg, 0.13 mmol) in 2 mL DMF was added NaN3 (34 mg, 0.52 mmol). The resulting reaction mixture was heated at 60° C. overnight and was then diluted with 10 mL EtOAc/hexane (1:1) and 10 mL water. The layers were separated. The organics were dried over sodium sulfate, filtered and concentrated. Crude product was purified on Combiflash prepacked silica gel column, eluted with hexane to 40% EtOAc in hexane to give 38 mg desired product. 1H NMR (500 MHz, CDCl3): δ 7.49 (d, J=1.9 Hz, 1H), 7.22 (dd, J=2.1, 8.5 Hz, 1H), 6.91 (d, J=8.4 Hz, 1H), 3.93 (s, 3H), 3.9 (m, 1H), 3.71 (m, 1H), 2.82 (m, 1H), 1.28 (s, 3H), 1.17 (s, 3H).

reactant | (S)-2-(3-bromo-4-methoxyphenyl)-3-hydroxy-3-methylbutyl 4-methylbenzenesulfonate | 0.13 mmol, 58 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C(C)(C)O)C1=CC(=C(C=C1)OC)Br | C19H23BrO5S
reactant | NaN3 | 0.52 mmol, 34 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc hexane | 10 mL | CCOC(=O)C.CCCCCC
solvent | water | 10 mL | O | H2O
product | (S)-5-(3-bromo-4-methoxyphenyl)-6,6-dimethyl-1,3-oxazinan-2-one | 38 mg | BrC=1C=C(C=CC1OC)[C@H]1CNC(OC1(C)C)=O | C13H16BrNO3
